US08309580B2
(2) 4-({cyclohexyl[5-(cyclohexylcarbonyl)-2-ethylthiophen-3-yl]methyl}amino)benzoic acid
To a mixture of methyl 4-({cyclohexyl[5-(cyclohexylcarbonyl)-2-ethylthiophen-3-yl]methyl}amino)benzoate (347 mg) synthesized above, tetrahydrofuran (5 mL) and ethanol (5 mL) was added 1N aqueous sodium hydroxide solution (5 mL), and the mixture was stirred with heating under reflux overnight, and concentrated under reduced pressure. The residue was dissolved in water (30 mL), and 1N hydrochloric acid (5 mL) was added at 0° C. The resulting precipitate was collected by filtration to give the title compound (296 mg, 88%) as a white solid.

reactant | methyl 4-({cyclohexyl[5-(cyclohexylcarbonyl)-2-ethylthiophen-3-yl]methyl}amino)benzoate | 347 mg | C1(CCCCC1)C(C1=C(SC(=C1)C(=O)C1CCCCC1)CC)NC1=CC=C(C(=O)OC)C=C1 | C28H37NO3S
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1N, 5 mL | [OH-].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 4-({cyclohexyl[5-(cyclohexylcarbonyl)-2-ethylthiophen-3-yl]methyl}amino)benzoic acid | 296 mg, 88% | C1(CCCCC1)C(C1=C(SC(=C1)C(=O)C1CCCCC1)CC)NC1=CC=C(C(=O)O)C=C1 | C27H35NO3S
